US08791161B2
tert-butyl 3-[({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}thio)methyl]-1H-pyrazole-1-carboxylate
Following General Procedure G, the title compound (206 mg, 36%) was prepared from N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis(1-benzofuran-2-sulfonamide) and tert-butyl 3-(bromomethyl)-1H-pyrazole-1-carboxylate.

reactant | N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis(1-benzofuran-2-sulfonamide) | ClC=1C=CC(=C(C1)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2)SSC2=C(C=C(C=C2)Cl)NS(=O)(=O)C=2OC1=C(C2)C=CC=C1 | C28H18Cl2N2O6S4
reactant | tert-butyl 3-(bromomethyl)-1H-pyrazole-1-carboxylate | BrCC1=NN(C=C1)C(=O)OC(C)(C)C | C9H13BrN2O2
product | tert-butyl 3-[({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}thio)methyl]-1H-pyrazole-1-carboxylate | 206 mg, 36% | O1C(=CC2=C1C=CC=C2)S(=O)(=O)NC2=C(C=CC(=C2)Cl)SCC2=NN(C=C2)C(=O)OC(C)(C)C | C23H22ClN3O5S2
